US07977477B2
Potassium nitrate (1.01 g, 10 mmol) was added to conc. H2SO4 (10 ml) at 0° C. This mixture was stirred at 0° C. for 15 min, then acetic acid 2-acetylamino-5-chloro-benzyl ester (1.92 g, 8 mmol) was added in small portions over 15 min. The reaction mixture was stirred at 0° C. for a further 1 h, and then poured onto crushed ice. The precipitate formed was collected by filtration to give a mixture of isomers, which were separated by column chromatography eluting with a gradient of 0-60% ethyl acetate in petroleum ether to give the desired acetic acid 2-acetylamino-5-chloro-3-nitro-benzyl ester as a yellow solid (0.454 g, 20%).

reactant | Potassium nitrate | 10 mmol, 1.01 g | [N+](=O)([O-])[O-].[K+]
reactant | acetic acid 2-acetylamino-5-chloro-benzyl ester | 8 mmol, 1.92 g | C(C)(=O)NC1=C(COC(C)=O)C=C(C=C1)Cl | C11H12ClNO3
solvent | H2SO4 | 10 ml | OS(=O)(=O)O | H2O4S
product | acetic acid 2-acetylamino-5-chloro-3-nitro-benzyl ester | 0.454 g, 20% | C(C)(=O)NC1=C(COC(C)=O)C=C(C=C1[N+](=O)[O-])Cl | C11H11ClN2O5
